US08084448B2
A. (2-Hydroxymethylphenyl)-acetic Acid Methyl Ester
To a solution of 2-methoxycarbonylmethylbenzoic acid (1.84 g, 9.48 mmol) (Tetrahedron Lett. 39, 8563 (1998)) in THF (20 mL) at 0° C. is added dropwise borane THF solution (10.4 mL, 10.4 mmol) and the mixture is stirred at 0° C. for 4 h. The mixture is quenched with MeOH and the solvent is evaporated. To the residue is added EtOAc and the mixture is washed with brine. The organic phase is dried over magnesium sulfate and the solvent is removed under reduced pressure. The residue is purified by column chromatography using a gradient of 0-100% EtOAc/hexane as eluent to give the title compound as an oil.

reactant | 2-methoxycarbonylmethylbenzoic acid | 9.48 mmol, 1.84 g | COC(=O)CC1=C(C(=O)O)C=CC=C1 | C10H10O4
reactant | borane THF | 10.4 mmol, 10.4 mL | B.C1CCOC1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2-Hydroxymethylphenyl)-acetic Acid Methyl Ester | COC(CC1=C(C=CC=C1)CO)=O | C10H12O3
